US05869495
Methyl 2-methoxy-3-[4-[2-[N-methyl-N-(2- pyridyl)amino]ethoxy]-phenyl]propanoate
A mixture of 2-methoxy-3-[4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxyl]-phenyl]propanonitrile (1.15 g), sodium hydroxide solution (10% w/v; 10 mL) and methanol (20 mL) was heated at reflux for 2.5 hrs, cooled and neutralised to pH7 with dilute HCl. The mixture was evaporated in vacuo and the residue redissolved in methanol presaturated with hydrogen chloride gas. The mixture was allowed to stand at room temperature for 7 days, then evaporated. Saturated sodium bicarbonate solution (100 mL) was added and the suspension extracted with ethyl acetate (3×200 mL). The combined ethyl acetate solutions were washed with water (2×500 mL) and brine (500 mL), dried (MgSO4) and evaporated. The resulting gum was chromatographed on silica gel with 1% methanol in dichloromethane to afford the title compound, a gum.

reactant | 2-methoxy-3-[4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxyl]-phenyl]propanonitrile | 1.15 g | COC(C#N)CC1=CC=C(C=C1)OCCN(C1=NC=CC=C1)C | C18H21N3O2
reactant | sodium hydroxide | 10 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
reactant | methanol | 20 mL | CO | CH4O
product | Methyl 2-methoxy-3-[4-[2-[N-methyl-N-(2- pyridyl)amino]ethoxy]-phenyl]propanoate | COC(C(=O)OC)CC1=CC=C(C=C1)OCCN(C1=NC=CC=C1)C | C19H24N2O4
